US05300518
α-(3-Pyridyl)-2,5-dimethoxy-4,6-dimethylbenzyl acetate
A mixture comprising 3.2 g of α-(3-pyridyl)-2,5-dimethoxy-4,6-dimethylbenzyl alcohol obtained by the method described in any of the Production Examples 1, 2 and 3, 5 ml of pyridine and 5 ml of acetic anhydride was heated and stirred at 80° C. for 1 hour. Then the pyridine and acetic anhydride were distilled off and the residue was purified by silica gel column chromatography. Thus 2.9 g of the title compound was obtained.

reactant | α-(3-pyridyl)-2,5-dimethoxy-4,6-dimethylbenzyl alcohol | 3.2 g | N1=CC(=CC=C1)C(C1=C(C=C(C(=C1C)OC)C)OC)O | C16H19NO3
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | α-(3-Pyridyl)-2,5-dimethoxy-4,6-dimethylbenzyl acetate | 2.9 g | C(C)(=O)OC(C1=C(C=C(C(=C1C)OC)C)OC)C=1C=NC=CC1 | C18H21NO4
